Full Adder do Rafael Neves

****** Includes ******

.include ../include.cir

****** HGSPICE ******

.option measform = 3
.option post = 0

****** Circuito ******

	Mp1 vdd a1 p1_p2 vdd 					pmos_rvt w=27.0n l=20n nfin=1
	Mp2 p1_p2 b1 p2_n1 vdd 						pmos_rvt w=27.0n l=20n nfin=1
	Mp3 vdd a1 p3_p4 vdd 					pmos_rvt w=27.0n l=20n nfin=1
	Mp4 p3_p4 cin1 p2_n1 vdd 					pmos_rvt w=27.0n l=20n nfin=1
	Mp5 vdd b1 p3_p4 vdd 					pmos_rvt w=27.0n l=20n nfin=1
	Mp6 vdd cin1 p6_p9 vdd 					pmos_rvt w=27.0n l=20n nfin=1
	Mp7 vdd a1 p6_p9 vdd 					pmos_rvt w=27.0n l=20n nfin=1
	Mp8 vdd b1 p6_p9 vdd 					pmos_rvt w=27.0n l=20n nfin=1
	Mp9 p6_p9 p2_n1 p9_n6 vdd 					pmos_rvt w=27.0n l=20n nfin=1
	Mp10 vdd a1 p10_p11 vdd 					pmos_rvt w=27.0n l=20n nfin=1
	Mp11 p10_p11 b1 p11_p12 vdd 					pmos_rvt w=27.0n l=20n nfin=1
	Mp12 p11_p12 cin1 p9_n6 vdd 					pmos_rvt w=27.0n l=20n nfin=1

	Mn1 p2_n1 b1 n1_n2 gnd 					nmos_rvt w=27.0n l=20n nfin=1 
	Mn2 n1_n2 a1 gnd gnd 					nmos_rvt w=27.0n l=20n nfin=1 
	Mn3 n4_n3 a1 gnd gnd 					nmos_rvt w=27.0n l=20n nfin=1 
	Mn4 p2_n1 cin1 n4_n3 gnd 					nmos_rvt w=27.0n l=20n nfin=1
	Mn5 n4_n3 b1 gnd gnd 					nmos_rvt w=27.0n l=20n nfin=1
	Mn6 p9_n6 p2_n1 n6_n7 gnd 					nmos_rvt w=27.0n l=20n nfin=1
	Mn7 n6_n7 cin1 gnd gnd 					nmos_rvt w=27.0n l=20n nfin=1
	Mn8 n6_n7 a1 gnd gnd 					nmos_rvt w=27.0n l=20n nfin=1
	Mn9 n6_n7 b1 gnd gnd 					nmos_rvt w=27.0n l=20n nfin=1
	Mn10 p9_n6 cin1 n10_n11 gnd					nmos_rvt w=27.0n l=20n nfin=1
	Mn11 n10_n11 b1 n11_n12 gnd 					nmos_rvt w=27.0n l=20n nfin=1
	Mn12 n11_n12 a1 gnd gnd 				nmos_rvt w=27.0n l=20n nfin=1

	*inversores
	Mp13 vdd p9_n6 sum vdd 					pmos_rvt w=27.0n l=20n nfin=1
	Mn13 sum p9_n6 gnd gnd 					nmos_rvt w=27.0n l=20n nfin=1
	Mp14 vdd p2_n1 cout vdd 					pmos_rvt w=27.0n l=20n nfin=1
	Mn14 cout p2_n1 gnd gnd 				nmos_rvt w=27.0n l=20n nfin=1 

************
.end